US04010265
3.0 g. of 1,4-dichloro-8-ethyl-7-phenylpyrido[3,4-d]-pyridazine was heated together with 15 g. of piperidine at 120° C for 1.5 hours, after which time the excess piperidine was distilled off. To the residue was added 60 ml. of water and the resultant crystals were recovered by filtration and were chromatographed on a column packed with silica gel, followed by elution with a mixed solvent of acetone-benzene (1:8). The combined eluate is concentrated and the residue was dissolved in 100 ml. of ethanol. Following the addition of 5 ml. of water, the solution was concentrated to dryness. The concentrate was diluted with 100 ml. of water and stirred, whereupon 2.5 g. of 8-ethyl-7-phenyl-1,4-dipiperidinopyrido-[3,4-d]pyridazine was obtained. Melting point: 64°-65° C.

reactant | 1,4-dichloro-8-ethyl-7-phenylpyrido[3,4-d]-pyridazine | ClC1=C2C(=C(N=N1)Cl)C=NC(=C2CC)C2=CC=CC=C2 | C15H11Cl2N3
reactant | piperidine | N1CCCCC1 | C5H11N
product | 8-ethyl-7-phenyl-1,4-dipiperidinopyrido-[3,4-d]pyridazine | C(C)C1=C(N=CC2=C(N=NC(=C21)N2CCCCC2)N2CCCCC2)C2=CC=CC=C2 | C25H31N5
